US05703050
f) Ethyl (3-(4-(tert-butyloxycarbonylaminoiminomethyl)benzyl)-3-benzyloxyureido)acetate
2.30 g (5.98 mmol) of ethyl (3-(4-(aminoiminomethyl)benzyl)-3-benzyloxyureido)acetate in 200 ml of ethanol are treated with 2.61 g (11.96 mmol) of di-tert-butyl dicarbonate and 1.50 g (17.94 mmol) of sodium hydrogen carbonate. After 2 d at 50° C., solid is filtered off and the filtrate is concentrated in vacuo.

reactant | ethyl (3-(4-(aminoiminomethyl)benzyl)-3-benzyloxyureido)acetate | 5.98 mmol, 2.30 g | NN=CC1=CC=C(CN(C(NCC(=O)OCC)=O)OCC2=CC=CC=C2)C=C1 | C20H24N4O4
reactant | di-tert-butyl dicarbonate | 11.96 mmol, 2.61 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | 17.94 mmol, 1.50 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl (3-(4-(tert-butyloxycarbonylaminoiminomethyl)benzyl)-3-benzyloxyureido)acetate | C(C)(C)(C)OC(=O)NN=CC1=CC=C(CN(C(NCC(=O)OCC)=O)OCC2=CC=CC=C2)C=C1 | C25H32N4O6
